US09399636B2
Step 6: 6-(3,3-difluoropyrrolidin-1-yl)-4-(1-methylpiperidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)pyridin-2-amine
A suspension of 4-(1-benzyl-3,4-dihydro-2H-pyridin-5-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine (250 mg, 0.4850 mmol) and palladium hydroxide on activated charcoal (85 mg, 0.25 equiv., 0.1212 mmol) in methanol (20 ml, 500 mmol) and ethyl acetate (20 ml, 204 mmol) was charged with H2 balloon. The reaction was kept stirring for 48 h, while LCMS indicated olefin was reduced. The catalyst was filtered off, and new portion of catalyst was refilled, followed by addition of acetic acid (0.556 mL, 20 equiv., 9.699 mmol). The reaction was stirred with H2 balloon overnight. LCMS showed both m/z 442 and 456. The catalyst was filtered off, and the solvent was evaporated to dryness. The residue was submitted for HPLC purification to yield 4.7 mg (4.4%) off-white powder. LCMS: m/z 442 (M+H).

reactant | 4-(1-benzyl-3,4-dihydro-2H-pyridin-5-yl)-6-(3,3-difluoropyrrolidin-1-yl)-N-[4-(trifluoromethyl)-2-pyridyl]pyridin-2-amine | 0.4850 mmol, 250 mg | C(C1=CC=CC=C1)N1CCCC(=C1)C1=CC(=NC(=C1)N1CC(CC1)(F)F)NC1=NC=CC(=C1)C(F)(F)F | C27H26F5N5
reactant | methanol | 500 mmol, 20 ml | CO | CH4O
reactant | ethyl acetate | 204 mmol, 20 ml | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | 9.699 mmol, 0.556 mL, 20 equiv. | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide on activated charcoal | 0.1212 mmol, 85 mg, 0.25 equiv. | [OH-].[OH-].[Pd+2]
product | 6-(3,3-difluoropyrrolidin-1-yl)-4-(1-methylpiperidin-3-yl)-N-(4-(trifluoromethyl)pyridin-2-yl)pyridin-2-amine | 4.7 mg, 4.4% | FC1(CN(CC1)C1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)C1CN(CCC1)C)F | C21H24F5N5
